US08357635B2
To a stirred solution of trans 1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone (2.7 g; 10 mmol) prepared as described in example P29, in methanol (20 ml) at ambient temperature was added pyridine (1.25 ml; 15 mmol) and methoxyamine hydrochloride (1.3 g; 15 mmol). The reaction mixture was stirred for 4 hours at ambient temperature then poured in water (50 ml) and extracted with dichloromethane (3×30 ml). Combined organic layers were washed with water (30 ml) and dried over anhydrous sodium sulphate. The solvent was removed in vacuo to afford 2.85 g (95% of theory) of trans 1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone O-methyl-oxime as an E/Z mixture in form of an orange oil.

reactant | trans 1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone | 10 mmol, 2.7 g | ClC=1SC(=C(C1[C@H]1[C@@H](C1)C(C)=O)Cl)Cl | C9H7Cl3OS
reactant | pyridine | 15 mmol, 1.25 ml | N1=CC=CC=C1 | C5H5N
reactant | methoxyamine hydrochloride | 15 mmol, 1.3 g | Cl.CON
solvent | methanol | 20 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | trans 1-[2-(2,4,5-trichloro-thiophen-3-yl)-cyclopropyl]-ethanone O-methyl-oxime | 2.85 g, 95% | CON=C(C)[C@H]1[C@@H](C1)C1=C(SC(=C1Cl)Cl)Cl | C10H10Cl3NOS
